US08486984B2
7.5 N-(5-Nitro-indan-2-ylmethyl)-propionamide
N-Indan-2-ylmethyl-propionamide (4.00 g, 19.7 mmol) was dissolved in nitromethane (60 mL) and added to a mixture of concentrated H2SO4 (19 mL), concentrated nitric acid (1.4 mL) and water (3.2 mL) cooled to 5° C. After stirring for 45 min, the reaction solution was poured into water, extracted with ethyl acetate and the organic phase separated and dried over MgSO4. The filtered solution was concentrated to give a brown oil (4.67 g, 96%).

reactant | N-Indan-2-ylmethyl-propionamide | 19.7 mmol, 4.00 g | C1C(CC2=CC=CC=C12)CNC(CC)=O | C13H17NO
reactant | H2SO4 | 19 mL | OS(=O)(=O)O | H2O4S
reactant | nitric acid | 1.4 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 3.2 mL | O | H2O
solvent | nitromethane | 60 mL | [N+](=O)([O-])C | CH3NO2
product | N-(5-Nitro-indan-2-ylmethyl)-propionamide | 4.67 g, 96% | [N+](=O)([O-])C=1C=C2CC(CC2=CC1)CNC(CC)=O | C13H16N2O3
